US08247421B2
Step 6: 2-((R)-1-(1-(2-hydroxyacetyl)piperidin-4-yl)ethylamino)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile
Diisopropylethylamine (179 μl, 1.025 mmol) was added to a mixture of 2-((R)-1-(piperidin-4-yl)ethylamino)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile 2,2,2-trifluoroacetate (140 mg, 0.205 mmol), TBTU (131.7 mg, 0.14 mmol) and glycolic acid (15.6 mg, 0.205 mmol) in tetrahydrofuran (3 mL). The reaction mixture was stirred at room temperature for 1 hour. The crude mixture was concentrated to dryness and redissolved in ethyl acetate. The organic phase was washed with a saturated solution of sodium bicarbonate and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified on silica gel by flash column chromatography to afford the title compound (60 mg, 47% yield). Also obtained was 20 mg (21% yield) of the detosylated compound.

reactant | Diisopropylethylamine | 1.025 mmol, 179 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-((R)-1-(piperidin-4-yl)ethylamino)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile 2,2,2-trifluoroacetate | 0.205 mmol, 140 mg | FC(C(=O)O)(F)F.N1CCC(CC1)[C@@H](C)NC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N
reactant | TBTU | 0.14 mmol, 131.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | glycolic acid | 0.205 mmol, 15.6 mg | C(CO)(=O)O | C2H4O3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-((R)-1-(1-(2-hydroxyacetyl)piperidin-4-yl)ethylamino)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 60 mg, 47% yield | OCC(=O)N1CCC(CC1)[C@@H](C)NC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C29H28F3N7O4S
